US09359338B2
Step 3: Synthesis of N-[6-(4-aminophenoxyl)pyrimidin-4-yl]cyclopropanecarboxamide
Dissolve N-[6-(4-nitrophenoxyl)pyrimidin-4-yl]cyclopropanecarboxamide (2.2 g, 7.33 mmol) in DCM (50 mL), add Pd/C (10%, 340 mg), flush with H2, and stir at room temperature under H2 for 2 hrs. After the reaction is complete, flush with N2, and then filter, concentrate the filtrate, purify the crude product by chromatography (silica gel, EtOAc:PE=1:1) to provide the title compound (1.8 g, 91%). MS: (M+1): 271.

reactant | N-[6-(4-nitrophenoxyl)pyrimidin-4-yl]cyclopropanecarboxamide | 7.33 mmol, 2.2 g | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=N2)NC(=O)C2CC2)C=C1 | C14H12N4O4
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 340 mg | [Pd] | Pd
product | N-[6-(4-aminophenoxyl)pyrimidin-4-yl]cyclopropanecarboxamide | 1.8 g, 91% | NC1=CC=C(OC2=CC(=NC=N2)NC(=O)C2CC2)C=C1 | C14H14N4O2
